Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
headache
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G6P2 at 32+3 with cHTN, seen today for BP check with
BPs 140's over 90-100's.  Also reports ___ frontal headache
that started around 0500 today.  Has been having headaches 
off/on
throughout this entire pregnancy.  Last couple weeks they seem
more frequent and more intense.  Hasn't tried any medications
today for pain.  Denies visual changes.  Does report RUQ pain
that has been present for "months".  Denies CTX, VB or LOF.  
This
AM less FM, but since having some food normal FM.

 
Past Medical History:
PNC:
-___: ___
-Labs: O+/Ab-/HBsAg-/RPRNR/RI/HIV-/GBS+ (___)
-Screening: LR ERA, normal ___
-FFS: EIF, otherwise WNL, posterior placenta
-GLT: 108

OBHx:
-TAB x2
-SAB x1
-pLTCS, 36+4, NRFHT, preeclampsia, fetal gastroschisis
-rLTCS, 36+3, preeclampsia
-current

GynHx: trichamonas in ___ and ___, neg TOC since

PMH: anxiety
PSH: C/X x2, tonsillectomy

 
Social History:
N/A
 
Physical Exam:
Alert, oriented
Breathing comfortably on room air
Abdomen soft, non tender
Extremities non tender

 
Pertinent Results:
___ 11:22AM BLOOD WBC-5.0 RBC-3.45* Hgb-9.3* Hct-29.1* 
MCV-84 MCH-27.0 MCHC-32.0 RDW-13.1 RDWSD-40.0 Plt ___
___ 11:22AM BLOOD Creat-0.6
___ 11:22AM BLOOD ALT-10 AST-16
___ 11:22AM BLOOD UricAcd-4.1
___ 11:22AM URINE Color-Yellow Appear-Hazy* Sp ___
___ 11:22AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 11:22AM URINE RBC-0 WBC-0 Bacteri-FEW* Yeast-NONE Epi-7
___ 11:02AM URINE pH-6 Hours-24 Volume-2925 Creat-60 
TotProt-10 Prot/Cr-0.2
___ 11:22AM URINE Hours-RANDOM Creat-88 TotProt-11 
Prot/Cr-0.1
___ 11:02AM URINE 24Creat-1755 24Prot-293
 
Brief Hospital Course:
Ms. ___ is a ___ G6P2 with cHTN, who was admitted to the 
hospital with a headache for evaluation for pre-eclampsia.  Her 
PEC labs were normal on admission, with a P/C 0.1.  Her HA 
resolved with fiorecet and Benadryl.  Her 24 hour urine protein 
resulted as 293.  Her blood pressures during admission were 
normal.
She had a fetal ultrasound that showed a fetus weighing 2399 
grams, 72%ile.  BPP ___ with reassuring and reactive NSTs during 
admission.  She was discharged home on ___ in stable condition 
with precautions and instructions for follow up.
 
Medications on Admission:
___ 81mg, Zantac PRN
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth once per day Disp #*10 Tablet Refills:*0 
2.  Acetaminophen ___ mg PO Q6H:PRN Pain  
3.  Aspirin 81 mg PO DAILY  
4.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Ms. ___,  

You were admitted to the hospital with elevated blood pressures. 
Your blood pressures were monitored overnight and remained 
normal. 

Your urine collection indicated that you do not have 
preeclampsia.  Your headache resolved with fioricet. 

We think it is now safe for you to go home. 

Please follow the instructions below:  
 - Attend all appointments with your obstetrician and all fetal 
scans  
 - Monitor for the following danger signs:  
 - headache that is not responsive to medication  
 - abdominal pain  
 - increased swelling in your legs  
 - vision changes  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns  

 
Followup Instructions:
___